US06608218B2
A cooled (0° C.) mixture of rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid (from Example 8100 mg, 0.29 mmol), fluorobenzene (2.5 mL) and N,N-dimethylformamide (1.8 μL). was treated with a 2.0 M solution of oxalyl chloride in dichloromethane (0.18 mL, 0.36 mmol) which caused a vigorous evolution of gas. The reaction was then stirred at 25° C. for 1 h and became light yellow in color. After methyl urea (64 mg, 0.87 mmol) was added, the reaction was heated at 70° C. for 10 min, then pyridine (0.048 mL, 0.60 mmol) was added and the mixture was maintained at 70° C. for 1 h. The cooled reaction was diluted with ethyl acetate (5 mL), then was filtered through celite to remove insoluble materials and the filtrate was concentrated in vacuo. The concentrate was washed with 3N hydrochloric acid (1×20 mL), saturated sodium bicarbonate (1×15 mL), and brine (1×15 mL), then was dried over sodium sulfate, filtered and evaporated under reduced pressure. The reaction product was purified by chromatography (Biotage Flash 40S column, 50/50 hexanes/ethyl acetate) to give 1-[(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetyl]-3-methyl-urea (63 mg, 54% yield) as a white foam: FAB-HRMS m/e calculated for C17H21N2O5SCl (M+H)+ 401.0938, found 401.0921.

reactant | rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid | 0.29 mmol, 8100 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)OC1C=CCCC1 | C15H17ClO5S
reactant | fluorobenzene | 2.5 mL | FC1=CC=CC=C1 | C6H5F
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 0.36 mmol, 0.18 mL | ClCCl | CH2Cl2
reactant | methyl urea | 0.87 mmol, 64 mg | CNC(=O)N | C2H6N2O
reactant | pyridine | 0.60 mmol, 0.048 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.8 μL | CN(C=O)C | C3H7NO
product | 1-[(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetyl]-3-methyl-urea | 63 mg, 54% yield | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC(=O)NC)OC1C=CCCC1 | C17H21ClN2O5S
